US07026339B2
Benzenesulfonohydrazide is prepared from benzenesulfonyl chloride (500 mg, 2.83 mmol) and hydrazine monohydrate (0.42 mL, 8.49 mmol) according to the experimental provided in Tetrahedron 2002, 58, 5513. The product is recrystallized from EtOAc/Hexane. The yield is 136 mg of benzenesulfonohydrazide, 28%.

reactant | benzenesulfonyl chloride | 2.83 mmol, 500 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrazine monohydrate | 8.49 mmol, 0.42 mL | O.NN
product | Benzenesulfonohydrazide | C1(=CC=CC=C1)S(=O)(=O)NN | C6H8N2O2S
